US07531577B2
Step 2 2-[(6-Benzenesulfonylamino-naphthalen-1-ylmethyl)-amino]-N-methyl-acetamide
[(6-Benzenesulfonylamino-naphthalen-1-ylmethyl)-amino]-acetic acid ethyl ester is added to methylamine in methanol, and the solution is stirred at room temperature, then concentrated under reduced pressure. The oil is dissolved in ethanol and 1N HCl in diethyl ether is added to precipitate 2-[(6-benzenesulfonyl-naphthalen-1-ylmethyl)-amino]-N-methyl-acetamide as a hydrochloride salt.

reactant | [(6-Benzenesulfonylamino-naphthalen-1-ylmethyl)-amino]-acetic acid ethyl ester | C(C)OC(CNCC1=CC=CC2=CC(=CC=C12)NS(=O)(=O)C1=CC=CC=C1)=O | C21H22N2O4S
reactant | methylamine | CN | CH5N
solvent | methanol | CO | CH4O
product | 2-[(6-Benzenesulfonylamino-naphthalen-1-ylmethyl)-amino]-N-methyl-acetamide | C1(=CC=CC=C1)S(=O)(=O)NC=1C=C2C=CC=C(C2=CC1)CNCC(=O)NC | C20H21N3O3S
